US05773530
A mixture of cis-3-[2-(4-methoxycarbonyl-2-oxocyclohexyl)-3-oxo-2,3-dihydropyridazin-6-yl]-2-phenylpyrazolo[1,5-a]pyridine (80 mg) and 1N aqueous sodium hydroxide (2 ml) in methanol (4 ml) was heated at 50° C. for 4 hours. The solution was acidified with 1N aqueous hydrochloric acid and the mixture was extracted with ethyl acetate. The organic layer was washed with brine, dried over magnesium sulfate, and evaporated in vacuo. The residue was triturated with diethyl ether to give cis-3-[2-(4-carboxy-2-oxocyclohexyl)-3-oxo-2,3-dihydropyridazin-6-yl]-2-phenylpyrazolo[1,5-a]pyridine (57 mg).

reactant | cis-3-[2-(4-methoxycarbonyl-2-oxocyclohexyl)-3-oxo-2,3-dihydropyridazin-6-yl]-2-phenylpyrazolo[1,5-a]pyridine | 80 mg | COC(=O)[C@H]1CC([C@H](CC1)N1N=C(C=CC1=O)C=1C(=NN2C1C=CC=C2)C2=CC=CC=C2)=O | C25H22N4O4
reactant | sodium hydroxide | 1N, 2 ml | [OH-].[Na+]
reactant | hydrochloric acid | 1N | Cl | ClH
solvent | methanol | 4 ml | CO | CH4O
product | cis-3-[2-(4-carboxy-2-oxocyclohexyl)-3-oxo-2,3-dihydropyridazin-6-yl]-2-phenylpyrazolo[1,5-a]pyridine | 57 mg | C(=O)(O)[C@H]1CC([C@H](CC1)N1N=C(C=CC1=O)C=1C(=NN2C1C=CC=C2)C2=CC=CC=C2)=O | C24H20N4O4
